US03966746
14.8 g of [[(1-ethyl-3-methyl-5-pyrazolyl)amino]methylene]malonic acid diethyl ester (0.05 mol) is dissolved in 50 g of diphenyl ether. The reaction mixture is heated to 235°-250° (bath temperature) and allowed to react at this temperature for 1 to 2 hours, while continuously distilling off the resulting ethanol. The last part of the alcohol is removed by means of a water aspirator. The diphenyl ether is separated by distillation with a fractionation column in vacuo. The 1-ethyl-4-hydroxy-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester is obtained at b.p.0.1-0.5 125°-129°, yield 10.7 g = 86% of theory, m.p. 91-93°. The compound is recrystallized from ligroin (90°-100°), and has a melting point of 93°-94°. Hydrolysis of this product with aqueous sodium hydroxide yields 1-ethyl-4-hydroxy-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, m.p. 212°-213°.

reactant | [[(1-ethyl-3-methyl-5-pyrazolyl)amino]methylene]malonic acid diethyl ester | 0.05 mol, 14.8 g | C(C)OC(C(C(=O)OCC)=CNC1=CC(=NN1CC)C)=O | C14H21N3O4
solvent | diphenyl ether | 50 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 1-ethyl-4-hydroxy-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=NC1)N(N=C2C)CC)O | C12H15N3O3
